US06835731B2
Preparation of Pyridine-2-carboxylic Acid (4-Hydroxymethyl-phenyl)-amide:
Using General Procedure F: Reaction of (4-Amino-phenyl)-methanol (200 mg, 1.63 mmol), picolinic acid (217 mg, 1.79 mmol), 1-hydroxybenzotriazole (242 mg, 1.79 mmol), 4-methyl morpholine (269 μL, 2.45 mmol) and EDCI (343 mg, 1.79 mmol) for 24 h at room temperature, gave the title compound (342 mg, 92%) as a red solid. 1H NMR (300 MHz, CDCl3) δ 4.70 (d, 2H, J=3.9 Hz), 7.41 (d, 2H, J=8.4 Hz), 7.50 (ddd, 1H, J=7.5, 4.8, 1.3 Hz), 7.79 (d, 2H, J=8.4 Hz), 7.92 (ddd, 1H, J=7.5, 7.5, 4.5 Hz), 8.31 (d, 1H, J=6.0 Hz), 10.06 (br s, 1H).

reactant | (4-Amino-phenyl)-methanol | 1.63 mmol, 200 mg | NC1=CC=C(C=C1)CO | C7H9NO
reactant | picolinic acid | 1.79 mmol, 217 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 1-hydroxybenzotriazole | 1.79 mmol, 242 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methyl morpholine | 2.45 mmol, 269 μL | CN1CCOCC1 | C5H11NO
reactant | EDCI | 1.79 mmol, 343 mg | CCN=C=NCCCN(C)C | C8H17N3
product | Pyridine-2-carboxylic Acid (4-Hydroxymethyl-phenyl)-amide | 342 mg, 92% | OCC1=CC=C(C=C1)NC(=O)C1=NC=CC=C1 | C13H12N2O2
